US05104992
36.7 g (0.1 mol) of 2-(2'-hydroxy-3',5'-di-t-amylphenyl)benzotriazole-N-oxide, 150 ml of water, 8 g (0.2 mol) of caustic soda and 5 g of Raney nickel were charged into a 500-ml stainless autoclave equipped with an agitator. After the air in the autoclave had been replaced by hydrogen, the pressure of hydrogen was set to 10 kg/cm2. The temperature of the resultant mixture was increased under agitation to 90° C. at which the mixture was then subjected to reaction for 8 hours until the absorption of hydrogen was stopped. After the reaction had been completed, the autoclave was cooled, and the catalyst was filtered off. The filtrate was then allowed to stand to separate an upper toluene layer. Most part of toluene layer was distilled off, and the resultant residual solid was crystallized from IPA and then dried to obtain 31.7 g of 2-(2'-hydroxy-3',5'-di-t-amylphenyl)benzotriazole (yield, 90.3%; melting point, 78° to 80° C.).

reactant | 2-(2'-hydroxy-3',5'-di-t-amylphenyl)benzotriazole-N-oxide | 0.1 mol, 36.7 g | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N1N=C2C(=[N+]1[O-])C=CC=C2 | C22H29N3O2
reactant | caustic soda | 0.2 mol, 8 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | water | 150 ml | O | H2O
product | 2-(2'-hydroxy-3',5'-di-t-amylphenyl)benzotriazole | 31.7 g, 90.3% | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N1N=C2C(=N1)C=CC=C2 | C22H29N3O
